US06906073B2
Preparation of 4-chloro-N-{2-[4-(3,4-dichloro-benzyl)-piperazin-1-yl]-phenyl}-4-methyl-benzamide
2-[4-(3,4-dichlorobenzyl)-piperazin-1-yl]-phenylamine (45 mg) was dissolved in a solution of triethylamine in dichloromethane (3 mL, 0.29 M in triethylamine). This solution was added to a test tube containing 4-chlorobenzoyl chloride (60 mg). After standing at ambient temperature for several days, the reaction was directly passed through a small pad of silica and eluted with 10% ethyl acetate in hexanes, then with 50% ethyl acetate in hexanes. Solvent removal left 49.6 mg of the product, which was subsequently repurified by silica gel chromatography to afford 11.4 mg product: MS m/z 473 (M)+.

reactant | 2-[4-(3,4-dichlorobenzyl)-piperazin-1-yl]-phenylamine | 45 mg | ClC=1C=C(CN2CCN(CC2)C2=C(C=CC=C2)N)C=CC1Cl | C17H19Cl2N3
reactant | 4-chlorobenzoyl chloride | 60 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 0.29 M, 3 mL | ClCCl | CH2Cl2
product | 4-chloro-N-{2-[4-(3,4-dichloro-benzyl)-piperazin-1-yl]-phenyl}-4-methyl-benzamide | 11.4 mg | ClC1(CC=C(C(=O)NC2=C(C=CC=C2)N2CCN(CC2)CC2=CC(=C(C=C2)Cl)Cl)C=C1)C | C25H26Cl3N3O
